### PR TITLE
Split constructive and classical axioms for real numbers

### PR DESCRIPTION
**Pull request by VincentSe**
**Kind:**  feature

Hello,

I propose to split the real numbers axioms into a constructive and a classical parts, so that we can choose which ones we want to use for each development.

The idea is to import these new files into the existing ones to replace those theorems about the real numbers which are constructive. As a proof of concept, this pull request does RIneq.v. This way we can incrementally constructivize the real numbers library.

Some practical problems come from the definitions of <= and <>, which change constructively :
```
x <= y   :=   ~(y < x)
x <> y   :=   (x < y \/ y < x)
```
For backward compatibility, we will have to duplicate all theorems that use these predicates, and provide for each of them trivial proofs that the classical axioms lift them to their classical definitions.

Rle_antisym and Rinv_0_lt_compat are upgraded from theorems to axioms, to compensate for the loss of classical axiom total_order_T and classical <=.

The division is left as a total function. The strictly constructive division would require proofs that denominators are appart from 0, but it is probably ok to keep it like this, as long as the division theorems require appartness proofs instead of not-equality proofs. We can also change it later.

### CODE REVIEW

**Comment by Zimmi48** [comment]
FTR the build failure is trivial: you just need to list new files in `doc/stdlib/index-list.html`.

File: theories/Reals/RIneq_constr.v [hunk 1]
```diff
@@ -0,0 +1,2533 @@
+(************************************************************************)
+(*         *   The Coq Proof Assistant / The Coq Development Team       *)
+(*  v      *   INRIA, CNRS and contributors - Copyright 1999-2018       *)
```
Comment (Zimmi48) [inline theories/Reals/RIneq_constr.v]: FTR the headers have recently been updated to the year 2019.

File: theories/Reals/RIneq_constr.v [hunk 2]
```diff
@@ -0,0 +1,2533 @@
...
+    + destruct a0 as [a0 _]. apply (Rplus_lt_reg_r (Ropp 1)).
+      rewrite Ropp_plus_distr. unfold Rminus.
+      rewrite Rplus_assoc. rewrite Rplus_assoc.
+      rewrite Rplus_assoc. rewrite Rplus_opp_r.
+      rewrite Rplus_0_r. rewrite Rplus_opp_l. rewrite Rplus_0_r.
+      replace (a + - (1)) with (-(1-a)).
+      apply Ropp_gt_lt_contravar. apply a0. ring.
+Qed.
+
+Lemma Qplus_same_denom : forall a b
```
Comment (Zimmi48) [inline theories/Reals/RIneq_constr.v]: Not necessarily worth it, but you can use the `deprecated` attribute on these compatibility notations if they are supposed to be removed after a while: https://coq.github.io/doc/master/refman/language/gallina-specification-language.html#attributes

**Comment by Zimmi48** [comment]
The few commented out lemmas and proofs should be cleaned up or uncommented before merging (this could be reflected in a "needs: progress" label).

Note that while I'm supportive of this change, I'm not a standard library maintainer and my comments do not form a proper review.

**Comment by VincentSe** [comment]
Hello @Zimmi48. Thanks for reading this PR. It is a work in progress, not supposed to be merged as is, rather meant to start a discussion (I didn't begin to delete theorems in the existing classical files yet). Those 5 new files build on my machine, but I didn't try to make them build on the continuous integration yet.

I left those commented lemmas to show examples of theorems that are not constructive, and that will belong to the classical part of the library. In this case, they will remain in the file RIneq.v, which will import RIneq_constr.v. Commented code will eventually disappear of course.

**Comment by MSoegtropIMC** [comment]
I hadn't time to review this PR as yet, but I have one general comment on a restructuring work of the Real axioms: when one verifies anything in VST (a C verification toolchain from Princeton) the development depends on the reals axioms, because VST depends on CompCert and CompCert depends on Flocq and Flocq depends on the Real axioms. Since this are quite a few axioms it makes it a bit hard to check such developments for axioms. In a discussion I had with @andrew-appel on the topic he suggested to refactor the Real axioms such that they are in a single structure which contains all the Real axioms, so that `Print Assumptions` on developments which depend on reals show more "this depends on the Reals axioms".

Here is an example `Print Assumptions` of a VST proof that some C function, which has nothing to do with reals or floats, matches its spec:
```
Axioms:
Rdefinitions.up : Rdefinitions.R -> Z
Raxioms.total_order_T : forall r1 r2 : Rdefinitions.R,
                        {Rdefinitions.Rlt r1 r2} + {r1 = r2} + {Rdefinitions.Rgt r1 r2}
prop_ext : ClassicalFacts.prop_extensionality
list_norepet_NoDup : forall (A : Type) (l : list A), list_norepet l <-> NoDup l
functional_extensionality_dep : forall (A : Type) (B : A -> Type)
                                  (f g : forall x : A, B x),
                                (forall x : A, f x = g x) -> f = g
Eqdep.Eq_rect_eq.eq_rect_eq : forall (U : Type) (p : U) (Q : U -> Type) 
                                (x : Q p) (h : p = p), x = eq_rect p Q x p h
Raxioms.completeness : forall E : Rdefinitions.R -> Prop,
                       Raxioms.bound E ->
                       (exists x : Rdefinitions.R, E x) ->
                       {m : Rdefinitions.R | Raxioms.is_lub E m}
Classical_Prop.classic : forall P : Prop, P \/ ~ P
Raxioms.archimed : forall r : Rdefinitions.R,
                   Rdefinitions.Rgt (Rdefinitions.IZR (Rdefinitions.up r)) r /\
                   Rdefinitions.Rle
                     (Rdefinitions.Rminus (Rdefinitions.IZR (Rdefinitions.up r)) r)
                     (Rdefinitions.IZR 1)
Raxioms.Rplus_opp_r : forall r : Rdefinitions.R,
                      Rdefinitions.Rplus r (Rdefinitions.Ropp r) = Rdefinitions.IZR 0
Raxioms.Rplus_lt_compat_l : forall r r1 r2 : Rdefinitions.R,
                            Rdefinitions.Rlt r1 r2 ->
                            Rdefinitions.Rlt (Rdefinitions.Rplus r r1)
                              (Rdefinitions.Rplus r r2)
Raxioms.Rplus_comm : forall r1 r2 : Rdefinitions.R,
                     Rdefinitions.Rplus r1 r2 = Rdefinitions.Rplus r2 r1
Raxioms.Rplus_assoc : forall r1 r2 r3 : Rdefinitions.R,
                      Rdefinitions.Rplus (Rdefinitions.Rplus r1 r2) r3 =
                      Rdefinitions.Rplus r1 (Rdefinitions.Rplus r2 r3)
Raxioms.Rplus_0_l : forall r : Rdefinitions.R,
                    Rdefinitions.Rplus (Rdefinitions.IZR 0) r = r
Rdefinitions.Rplus : Rdefinitions.R -> Rdefinitions.R -> Rdefinitions.R
Rdefinitions.Ropp : Rdefinitions.R -> Rdefinitions.R
Raxioms.Rmult_plus_distr_l : forall r1 r2 r3 : Rdefinitions.R,
                             Rdefinitions.Rmult r1 (Rdefinitions.Rplus r2 r3) =
                             Rdefinitions.Rplus (Rdefinitions.Rmult r1 r2)
                               (Rdefinitions.Rmult r1 r3)
Raxioms.Rmult_lt_compat_l : forall r r1 r2 : Rdefinitions.R,
                            Rdefinitions.Rlt (Rdefinitions.IZR 0) r ->
                            Rdefinitions.Rlt r1 r2 ->
                            Rdefinitions.Rlt (Rdefinitions.Rmult r r1)
                              (Rdefinitions.Rmult r r2)
Raxioms.Rmult_comm : forall r1 r2 : Rdefinitions.R,
                     Rdefinitions.Rmult r1 r2 = Rdefinitions.Rmult r2 r1
Raxioms.Rmult_assoc : forall r1 r2 r3 : Rdefinitions.R,
                      Rdefinitions.Rmult (Rdefinitions.Rmult r1 r2) r3 =
                      Rdefinitions.Rmult r1 (Rdefinitions.Rmult r2 r3)
Raxioms.Rmult_1_l : forall r : Rdefinitions.R,
                    Rdefinitions.Rmult (Rdefinitions.IZR 1) r = r
Rdefinitions.Rmult : Rdefinitions.R -> Rdefinitions.R -> Rdefinitions.R
Raxioms.Rlt_trans : forall r1 r2 r3 : Rdefinitions.R,
                    Rdefinitions.Rlt r1 r2 ->
                    Rdefinitions.Rlt r2 r3 -> Rdefinitions.Rlt r1 r3
Raxioms.Rlt_asym : forall r1 r2 : Rdefinitions.R,
                   Rdefinitions.Rlt r1 r2 -> ~ Rdefinitions.Rlt r2 r1
Rdefinitions.Rlt : Rdefinitions.R -> Rdefinitions.R -> Prop
Raxioms.Rinv_l : forall r : Rdefinitions.R,
                 r <> Rdefinitions.IZR 0 ->
                 Rdefinitions.Rmult (Rdefinitions.Rinv r) r = Rdefinitions.IZR 1
Rdefinitions.Rinv : Rdefinitions.R -> Rdefinitions.R
Raxioms.R1_neq_R0 : Rdefinitions.IZR 1 <> Rdefinitions.IZR 0
Rdefinitions.R1 : Rdefinitions.R
Rdefinitions.R0 : Rdefinitions.R
Rdefinitions.R : Set
```
I hope you see what I mean ... it is easy to miss something in here. In the end this long list of axioms has a practical impact on the trustworthiness of such proofs, because one has to manually review the axiom list of top level goals. I know that this is a rather unmathematical argument, but it is a valid practical argument.

**Comment by Zimmi48** [comment]
How do you suggest doing such a bundling with today technology? Through a record?

**Comment by VincentSe** [comment]
@MSoegtropIMC

> 
a VST proof that some C function, which has nothing to do with reals or floats, matches its spec

If you do not want to see the real axioms in your dependencies, I guess you can grep or sed them out automatically. Or make a pull request to Coq to control more precisely what Print Assumptions does. Is this really a reason to block the development of real numbers in Coq ?

**Comment by MSoegtropIMC** [comment]
> Is this really a reason to block the development of real numbers in Coq ?

Of cause not. I didn't suggest to block anything. I just suggested to consider these difficulties when restructuring real axioms. Your initial comments to this PR suggest that this is more the beginning of a longer project to restructure Real arithmetic in Coq.

**Comment by MSoegtropIMC** [comment]
> How do you suggest doing such a bundling with today technology? Through a record?

Technically speaking yes. I didn't think that much about it, but I think if one makes such a record a type class instance, one could do this without changes in the code which use the axioms.

**Comment by MSoegtropIMC** [comment]
> I guess you can grep or sed them out automatically

I think I would rather wait on Dedukti to show that the proofs actually do not depend on these axioms. I think INRIA Dedukteam is not that far away from being able to do this.

**Comment by VincentSe** [comment]
I am now entering the dirty details of deleting code in the classical files, and the notations "0" and "1" of the real numbers do not compile anymore. I bet those are not really Coq notations, rather the ML function r_of_rawnum defined in r_syntax.ml.

When trying to parse "0", coqc tells me 
Cannot interpret in R_scope without requiring first module Rdefinitions.

But I loaded this module a few lines above with Require Export Rdefinitions. Does anyone know what could be causing this error ?

**Comment by spitters** [comment]
@MSoegtropIMC I agree, I think in the future the reals should not be build using Axioms, but instead we should define a real number structure. I guess we'd need two of them: a constructive and a classical one.
Three such structures are available in the corn and math-classes library.
The main axiom that should be necessary to construct the classical reals is a countable version of the excluded middle: LPO. 

It would be great to coordinate this PR with updating
https://github.com/coq-community/corn/tree/master/coq_reals
as a sanity check. The directory shows that the classical Coq reals form an instance of the corn real number structure. That particular presentation has been improved twice:
https://github.com/coq-community/corn/tree/master/reals/fast
https://github.com/coq-community/corn/tree/master/reals/faster
with better axiomatics (in the sense of a record, not an Axiom)

However, this should not necessarily block this PR.

**Comment by MSoegtropIMC** [comment]
@spitters : could you elaborate a bit on this idea:

> It would be great to coordinate this PR with updating
> https://github.com/coq-community/corn/tree/master/coq_reals

do you suggest to, as an experiment, replace the definition of Reals in Coq with the above development and see what effects this would have on say Coquelicot, Flocq, CoqInterval, ...

Btw.: what are @maximedenes plans for the Reals in the Coq standard library 2.0?

**Comment by silene** [comment]
It seems like the changes to the `ring` and `field` tactics are completely unrelated. Did I miss something?

I am also a bit confused by the changes to `RIneq`. If I understand correctly, you move constructive facts to `RIneq_constr` and prove them for the constructive versions of the operators. And then you export `RIneq_constr` from `RIneq`. As a consequence, the classical facts now use the constructive operators. Was that intended? If so, just get rid of the classical operators and rename the constructive ones `Rle` and `Rge`. No need for `RCle` and `RCge`. (The classical operators are crap anyway, since people at the time underestimated how wrong it would be for `Rle` and `Rge` to not even be convertible.)

Anyway, I am in favor of the overall approach, although it might turn awful for existing developments.

(By the way, I agree with @MSoegtropIMC that it is a good time to pack all the axioms into a few records.)

**Comment by spitters** [comment]
@MSoegtropIMC that development shows that the classical reals are an instance of a constructive real number structure.
If the new axioms proposed by @VincentSe are strong enough that proof should essentially go through.

**Comment by spitters** [comment]
I raised the issue about stdlib2 here
https://gitter.im/coq/stdlib2
There seem no plans to include reals in stdlib2.

**Comment by spitters** [comment]
@silene I think there should be very little Axioms left. Just an Record (Class) for a real number structure and a proof that one of the existing constructions is an instance of that Record.
Here are two constructions, apart from the ones that I already mentioned.
https://github.com/math-comp/analysis/blob/master/theories/altreals/dedekind.v
https://github.com/math-comp/analysis/blob/master/theories/reals.v
Do you agree?

**Comment by silene** [comment]
No, I don't. There might be some misunderstanding. @VincentSe 's approach is to move axioms and theorems that are available in constructive mathematics into their own files. So, if you import `RIneq_constr`, you get all the theorems from the old `RIneq` that are constructive by nature. And, if you import `RIneq`, nothing changes, since it exports `RIneq_constr` and contains all the non-constructive statements from the old `RIneq`. None of the theorem statements have been changed. In particular, none of them are parametrized by a record or anything like that.

The use of records @MSoegtropIMC proposes is completely orthogonal. But, since axioms are changing names (e.g., `Raxioms.Rplus_comm` becomes `Raxioms_constr.Rplus_comm`), we might just as well take the chance to reduce the noise produced by `Print Assumptions`.

**Comment by spitters** [comment]
Yes, there are two issues here: constructive/classical
and the reals as a construction, or as an hypothesis.

Module Classical from
 https://github.com/math-comp/analysis/blob/master/theories/altreals/dedekind.v
is an example of the kinds of axioms one could use to construct the classical reals. Doing it this way would solve @MSoegtropIMC issue, I believe.

**Comment by VincentSe** [comment]
I'll revert the changes concerning the tactics. We can discuss the field tactic and the totality of the division in another pull request.

I also want to prove constructively that R is Cauchy-complete with those axioms. It is a good sign that they are strong enough, as @spitters says. I should finish this this week.

The new RIneq does not export the constructive lemmas : when predicates <= and >= were involved I kept a classical lemma with same name in RIneq.v : it masks the constructive one. So importing RIneq still gives classical reals, and importing RIneq_constr gives constructive reals.

I agree that it would be better to completely get rid of the classical <= and >=, and also better to pack the axioms in a record. However this would make the pull request a lot bigger, because we would need to adapt all proofs in the Reals library. Also, Coq's continuous integration builds Coquelicot and VST, which sometimes use fully qualified names like RIneq.Ropp_minus_distr. Their source code is not in the Coq repository, so they would need to be modified before this PR passes if we change the axioms' names or pack them in a record. Or is there a way to easily pack so that everything compiles ?

I aim at incremental and backward-compatible changes, so that we can progressively constructivize the Reals library. When this is finished, then we can change and pack the names I think.

**Comment by silene** [comment]
My mistake indeed, you only removed statements about strict inequalities, not the ones about large inequalities.

As for packing the axioms into records, the idea is as follows:
```
Record axioms_ := { Ropp_minus_distr_ : ... ; ... }.
Variable axioms : axioms_.
Definition Ropp_minus_distr := Ropp_minus_distr_ axioms.
Definition ...
```

Here the definitions are transparent proxies. But they could also be made opaque, in case it helps with backward compatibility.

**Comment by spitters** [comment]
@silene that might indeed be a way to slowly remove the use of Axioms by constructing a term of type axioms_ from the axioms of classical logic.

**Comment by silene** [comment]
No, that is the opposite, `axioms` are already the axioms of constructive/classical real numbers (one record in `Raxioms_constr` and another one in `Raxioms`). There is nothing slow about it. You pack all the axioms at once into records.

**Comment by spitters** [comment]
@silene I meant this may allow a gradual ("slow") transition towards replacing the axiomatic real numbers by a construction from the axioms of classical logic.
I hope we agree that ideally we would not assume the real numbers to exist, but instead prove that they do?

**Comment by Zimmi48** [comment]
> Or is there a way to easily pack so that everything compiles ?

There is, this is called overlays, see https://github.com/coq/coq/tree/master/dev/ci/user-overlays. That would be for testing purposes only: the backward-compatible fix of these external projects would still have to be merged in these projects, before the compatibility-breaking Coq PR is merged.

**Comment by VincentSe** [comment]
@spitters I do agree that eventually the real numbers should be constructed, rather than axiomatized. However this won't happen anytime soon, given the current state of the Reals library. We need a transition path, and it will have axioms on the way (changing the axioms' names does not even compile).

CoRN can help in this transition, by proving those axioms inside of CoRN, ie constructing a model for them. In other words, by proving they are consistent. I can do it myself in CoRN after this PR, but I do not yet see how to construct the quotient axiom Rle_antisym : CoRN uses a setoid instead.

For the long term compatibility-breaking change that constructs the real numbers without axioms, we also need to find all the external libraries that depend on Reals. At least they must be notified of the breaking change some months before it happens. You said you know those libs, that would be helpful too.

**Comment by spitters** [comment]
I agree we need a transition path.

I agree, the quotient axiom will still be there. I don't think it can be
proved without some axiom.

Well we know of floqc, coquelicoq, compcert and VST using the reals.
Perhaps we can get precise dependencies from somewhere.

**Comment by spitters** [comment]
I've looked at the statements of the lemmas. They look reasonable.
I believe the proofs may perhaps be shortened a bit, e.g. by combining more rewrites in the ssr style.
However, not everyone prefers that style.

**Comment by VincentSe** [comment]
I just tested to pack the axioms in a record as suggested by @silene and @MSoegtropIMC. It breaks file RiemannInt.v, which does not manage to implicitely add arguments of type R (it uses Set Implicit Arguments at the beginning of the file).

I bet it is a problem of opacity and I do not know how to solve it.

File: theories/Reals/Raxioms.v [hunk 3]
```diff
@@ -19,12 +19,25 @@ Declare Scope R_scope.
...
 (*********************************************************)
 (** *    Order axioms                                    *)
 (*********************************************************)
+
+(* Redundant with Raxioms_constr, used by VST
+   with absolute path. *)
+Lemma Rlt_trans : forall r1 r2 r3:R, r1 < r2 -> r2 < r3 -> r1 < r3.
+Proof.
+  exact Rlt_trans.
+Qed.
```
Comment (silene) [inline theories/Reals/Raxioms.v]: A better way to accommodate backward compatibility is as follows:

    #[deprecated(since = "8.11")]
    Notation Rlt_trans := Rlt_trans (only parsing).

Comment (VincentSe) [reply theories/Reals/Raxioms.v]: Done

**Comment by VincentSe** [comment]
Now Coquelicot and VST build. Those errors seem unrelated to my pull request (python not found, git certificate, ...). Shall I restart the continuous integration ?

File: theories/Reals/RIneq.v [hunk 4]
```diff
@@ -1150,3 +1135,44 @@ Notation not_O_INR := not_0_INR (only parsing).
 Notation not_O_IZR := not_0_IZR (only parsing).
 Notation le_O_IZR := le_0_IZR (only parsing).
 Notation lt_O_IZR := lt_0_IZR (only parsing).
+
+(* Redundant with RIneq_constr, used by Coquelicot or VST
+   with absolute path. *)
```
Comment (silene) [inline theories/Reals/RIneq.v]: This has nothing to do with Coquelicot or VST. They hardly represent the whole landscape of Coq libraries relying on the `Reals` standard library. Any symbol you have removed from `RIneq` (and `Raxioms` and `Rdefinitions`) needs to get its own proxy for backward compatibility: `Rlt_irrefl`, `Rgt_irrefl`, `Rlt_dichotomy_converse`, `Rgt_lt`, and so on.

**Comment by Zimmi48** [comment]
> Shall I restart the continuous integration ?

No, that wouldn't make them green. These failures are known and are being worked on.

File: theories/Reals/RIneq.v (hunk 4 above)
Comment (VincentSe) [reply theories/Reals/RIneq.v]: Done

**Comment by VincentSe** [comment]
Quickchick is a new failed test. I doubt that is related to my pull request either :  the error message is cryptic and my last commit only adds notations for backward compatibility. Are there other objections or remarks ? Shall we merge ?

File: theories/Reals/Rdefinitions_constr.v [hunk 5]
```diff
@@ -0,0 +1,165 @@
...
+
+Notation "x < y < z"   := (x <  y /\ y <  z) : R_scope.
+
+
+(**********************************************************)
+(** *    [R] Complete                                     *)
+(**********************************************************)
+
+(**********)
+Definition Un_cauchy_Q (xn yn : nat -> Q) : Set
```
Comment (silene) [inline theories/Reals/Rdefinitions_constr.v]: What is `yn` used for?

File: theories/Reals/Raxioms_constr.v [hunk 6]
```diff
@@ -0,0 +1,135 @@
...
+Local Open Scope R_scope.
+Local Open Scope R_scope_constr.
+
+Definition Un_cv_mod (un : nat -> R) (l : R) : Set
+  := forall n : positive,
+    { p : nat | forall i:nat, le p i
+                     -> -/ IPR n < un i - l < / IPR n }.
+
+Axiom ComputableRealCv : forall (un : nat -> Q) (uncau : Un_cauchy_Q un un),
+    Un_cv_mod (fun n => IQR (un n)) (ComputableReal un uncau).
```
Comment (silene) [inline theories/Reals/Raxioms_constr.v]: Is that really an axiom? It seems like a consequence of the Archimedean property.

File: theories/Reals/Rdefinitions_constr.v (hunk 5 above)
Comment (VincentSe) [reply theories/Reals/Rdefinitions_constr.v]: Un_Cauchy_Q xn yn is the equivalence relation on the sequences of rational numbers. It means that xn and yn are both Cauchy and have the same limit. Un_Cauchy_Q xn xn simply means that xn is Cauchy.

One lemma we would later prove is this:
forall xn yn, Un_Cauchy_Q xn yn -> ComputableReal xn = ComputableReal yn

File: theories/Reals/Raxioms_constr.v (hunk 6 above)
Comment (VincentSe) [reply theories/Reals/Raxioms_constr.v]: Yes it is. ComputableReal is also an axiom, and we know nothing about the real numbers it produces until we pose ComputableRealCv. I would bundle these two as one sigma-type axiom, but we first need ComputableReal to define R0, then define IQR, then define ComputableRealCv.

Archimedean means smaller or equal to R (more precisely that Q is dense in the field). This is the reciprocal inclusion: all Cauchy sequences of rationals have their limits in the field. This way we get the biggest Archimedean field, aka R.

File: theories/Reals/Rdefinitions_constr.v (hunk 5 above)
Comment (silene) [reply theories/Reals/Rdefinitions_constr.v]: But the body of `Un_Cauchy_Q` does not even mention `yn`. How can you expect to prove such a lemma in a consistent setting?

File: theories/Reals/Raxioms_constr.v (hunk 6 above)
Comment (silene) [reply theories/Reals/Raxioms_constr.v]: Right.

But my point about the Archimedean property was that, if `k` is the integer part of `l * i` (or close to it), then the rational `k/i` is provably close to x. Anyway, that is not relevant here. But it might be relevant below.

File: theories/Reals/Rdefinitions_constr.v (hunk 5 above)
Comment (VincentSe) [reply theories/Reals/Rdefinitions_constr.v]: You are right, I missed that. The correct definition is (xn p - yn q). I will change it tonight around 11pm. Do you see other errors or things to change ?

File: theories/Reals/Raxioms_constr.v [hunk 7]
```diff
@@ -0,0 +1,135 @@
...
+(** **   Total Order                                     *)
+(*********************************************************)
+
+(**********)
+(* This axiom in sort Set will allow to prove
+   forall (x:R) (n:nat), { q : Q | x < INQ q < x + / INR n }
+   ie all real numbers have a rational converging sequence in sort Set.
+   While this is true constructively, it requires an oracle
+   when classical axioms are added. But then we do not care about extraction. *)
+Axiom linear_order_T : forall a b c:R, a < c -> {a < b} + {b < c}.
```
Comment (silene) [inline theories/Reals/Raxioms_constr.v]: The property `forall (x:R) (n:nat), { q : Q | x < INQ q < x + / INR n }` certainly looks like it could be inferred from the Archimedean property. Just take `q := (up (2 * x * INR n))#(Pos.of_nat (2 * n))`. So, I am not sure how to understand the comment about classical axioms. Why would classical reals need this axiom, when they already have `archimed`?

Anyway, my point is kind of moot, since `linear_order_T` is trivially implied by `total_order_T`. So, if you don't need `linear_order_T` for constructive reals, you might just as well remove it.

Comment (VincentSe) [reply theories/Reals/Raxioms_constr.v]: We do need `linear_order_T` for the constructive real numbers : [nlab](https://ncatlab.org/nlab/show/linear+order) (see section 3, example of the real numbers).

The constructive Archimedean property is weaker than `up` :
`Axiom Rarchimed_constr : forall a : R, { p : Z | a < IZR p }.`
By the way, I moved `up` to the classical part of the library, since its constructive translation is a little different : 
```
Definition Rfloor (a : R)
  : { p : Z | IZR p < a < IZR p + 2 }.
```
Note the number 2 instead of 1. So `linear_order_T` is what proves `Rfloor` and `forall (x:R) (n:nat), { q : Q | x < INQ q < x + / INR n }`.

**Comment by silene** [comment]
`Rinv_lt_contravar` was not moved to `RIneq_constr.v`. Was there something wrong with it?

What about `Rinv_r`, `Rinv_l_sym`, `Rinv_r_sym`, `Rmult_eq_reg_l`, and `Rmult_eq_reg_r`? Could it be because their proof rely on `field` which imports non-constructive axioms? Was that the reason why you wanted to modify the `field` tactic originally?

By the way,

    Require Import RIneq_constr.
    Locate total_order_T.

should fail. It does not. So, something dubious is going on.

**Comment by spitters** [comment]
We have a fairly complete order theory for the reals here:
https://arxiv.org/abs/1106.3448
following Heyting.

I am worried about having a floor function combined with the quotient axiom
for real numbers.
If the reals are a type, instead of a setoid, we expect all (definable)
functions R -> Z to be constant.
I don't know a model of the axioms you are proposing.

**Comment by VincentSe** [comment]
@spitters The floor function is proved in RIneq_constr, it is not an axiom.

**Comment by VincentSe** [comment]
@spitters That is a problem indeed. I don't have an answer at the moment.

**Comment by silene** [comment]
"proved" might be too much of an assertion, since `Print Assumptions RIneq_constr.Rfloor` gives

```
Rdefinitions.up : R -> Z
Raxioms.total_order_T : forall r1 r2 : R, {(r1 < r2)%R} + {r1 = r2} + {(r1 > r2)%R}
Raxioms.archimed : forall r : R, (IZR (Rdefinitions.up r) > r)%R /\ Rdefinitions.Rle (IZR (Rdefinitions.up r) - r) 1
```

(This is related to my other comment, obviously.)

**Comment by VincentSe** [comment]
@silene That is why I had extracted a constructive RealRing out of RealField. RealField still imports Raxioms (but my proofs do not use them). I'll redo the split of RealField tonight.

The constructive division `/ x` requires `Rappart x 0`, ie `0 < x \/ x < 0`, instead of the classical `~(x = 0)`. That's why I kept classical lemmas for the division.

Rinv_lt_contravar is not constructive : 0 < r1 * r2, does not let you prove that Rappart r1 0, which you need for the constructive division.

**Comment by VincentSe** [comment]
@spitters Note that Brouwer's proof that all functions on the real numbers are continuous was not really a proof. And it was in Brouwer's intuitionnistic mathematics, not in Coq.

My understanding of it is the following. If in addition to my real axioms we had a discontinuous Heaviside function
`Axiom Rnonneg : forall x : R, {Rlt x 0} + {RCle 0 x}.`
then, by applying it to both x and -x we would derive an algorithm to test equality with 0
`Definition Req_zero (x : R) : {x = 0%R} + {Rlt 0 x} + {Rlt x 0}.`
which is absurd.

However, I do not see how the floor function allows you to construct Rnonneg. If you have a number very close to 0 and the floor tells you -1, you still do not know whether your number is exactly 0.

**Comment by SkySkimmer** [comment]
>0 < r1 * r2, does not let you prove that Rappart r1 0

Are you sure? I can do it using HoTT-style reals. If you add the following short lemma after https://github.com/SkySkimmer/HoTTClasses/blob/d9251ff45ad6b6ab136a0bf0c65346a870c3009f/theories/cauchy_reals/full_ring.v#L131 it works
~~~coq
Lemma Rmult_le_apart_zero : forall x y, 0 < x * y -> apart 0 x.
Proof.
  intros x y H.
  apply Rmult_lt_apart with y.
  rewrite mult_0_r,mult_comm.
  assumption.
Qed.
~~~

**Comment by spitters** [comment]
I understand that the model you have in mind for the quotient is either
based on constructive set theory or HoTT.
In both cases, a definable non-constant term R->Z would contradict the
interpretation of that term in the (higher) sheaf model over the reals.

**Comment by VincentSe** [comment]
@spitters Yes, those were the models I had in mind, and they both collapse :(

There might still be another model though. Note that those axioms can be proved by the classical part of the stdlib, so they are equi-consistent to it. And I do believe that classical logic is consistent, even though it has no computational content.

So what is your recommendation ? Do we merge this as a first step (that is not worse than the current stdlib) or do we wait for something better ? But what other propositions do we have ?

**Comment by spitters** [comment]
That depends on where you want to go from here.

If you want to develop something HoTT based, then we should have a careful
look at how to integrate HoTT with the stdlib.
E.g.
https://github.com/HoTT/HoTT/issues/1048

If you want to use setoids, you probably want to think about how to
integrate math-classes with the stdlib.

**Comment by silene** [comment]
> RealField still imports Raxioms (but my proofs do not use them).

What do you mean? As I have just shown, your proof of `RIneq_constr.Rfloor` currently depends on them.

**Comment by VincentSe** [comment]
@spitters How about this : I kick `Rle_antisym` back into the classical part of the lib, where it is a theorem, not an axiom.

For the constructive part, I switch to setoid-like axioms with 
`Definition Req (r1 r2:R) : Prop := ~(r1 < r2) /\ ~(r2 < r1).`
replacing equality ? This way we can even think about completely removing the axioms in another pull request. I think that opens a bridge between the stdlib and math-classes.

All backward-compatibility notations become lemmas, where Req is lifted into classical equality.

**Comment by spitters** [comment]
Yes, that sounds sensible.

**Comment by VincentSe** [comment]
@silene There is a way to write RealRing so that we avoid `up` and friends. It's in the first commit of this pull request if you want to know now. I'll put it back after I've rewritten with setoids everywhere, as Bas suggests.

**Comment by VincentSe** [comment]
@SkySkimmer You are probably right. I didn't try to optimize all constructive lemmas yet, I'm trying to get the correct constructive axioms first. You are welcome to prove it after this pull request is merged :)

**Comment by VincentSe** [comment]
I just pushed the corrections of the various problems reported by @silene. In particular, `yn` is used in the Cauchy predicate and `Rfloor` no longer depends on the classical reals. Also, I recast the axioms in a setoid style, to get rid of the quotient axiom. For the moment I simply revert RIneq.v the current master version. In the following days I'll rewrite its proofs by calling the corresponding constructive proofs of RIneq_constr, followed by `Req_classical` to lift `Req` into equality.

File: theories/Reals/Raxioms_constr.v [hunk 8]
```diff
@@ -31,49 +31,43 @@ Axiom ComputableRealCv : forall (un : nat -> Q) (uncau : Un_cauchy_Q un un),
 (** *            Field axioms                            *)
 (*********************************************************)
 
+Axiom RisRingExt : ring_eq_ext Rplus Rmult Ropp Req.
```
Comment (silene) [inline theories/Reals/Raxioms_constr.v]: Does it need to be an axiom?

Comment (VincentSe) [reply theories/Reals/Raxioms_constr.v]: Compared to the current stdlib, you do need some additional axioms of compatibility between Req and Rplus and Rmult, to compensate for the loss of total_order_T. You can probably be more economical by axiomatizing only Rplus_eq_compat_l and Rmult_eq_compat_l. Do you prefer that?

Comment (silene) [reply theories/Reals/Raxioms_constr.v]: Yes, that would be better. Let us keep the axioms clear.

File: test-suite/success/Compat88.v [hunk 9]
```diff
@@ -14,5 +14,5 @@ Check Nat.eqb 1 1.
 Check BinNat.N.eqb 1 1.
 Check BinInt.Z.eqb 1 1.
 Check BinPos.Pos.eqb 1 1.
-Check Rdefinitions.Rplus 1 1.
+Check Rdefinitions_constr.Rplus 1 1.
```
Comment (silene) [inline test-suite/success/Compat88.v]: This file checks for proper backward compatibility; any change to it is suspicious. So, I guess a compatibility notation for `Rplus` is missing in `Rdefinitions.v`.

File: theories/Reals/Raxioms_constr.v (hunk 8 above)
Comment (VincentSe) [reply theories/Reals/Raxioms_constr.v]: Done. See axioms `Rplus_lt_reg_l` and `Rmult_eq_compat_l`.

File: test-suite/success/Compat88.v (hunk 9 above)
Comment (VincentSe) [reply test-suite/success/Compat88.v]: Reverted.

**Comment by VincentSe** [comment]
In RIneq.v, I took all proofs of constructive lemmas longer than 4 lines and called instead the constructive proofs of RIneq_constr, followed by lifts `Req_classical`, `Rle_classical` and `Rappart_classical`. The resulting proofs are 4 lines or less. RIneq no longer exports RIneq_constr.

File: theories/Reals/RIneq.v [hunk 10]
```diff
@@ -2145,3 +1955,26 @@ Notation not_O_INR := not_0_INR (only parsing).
...
+#[deprecated(since = "8.11")]
+Notation Rmult_lt_reg_r := Rmult_lt_reg_r (only parsing).
+#[deprecated(since = "8.11")]
+Notation INR_lt := INR_lt (only parsing).
+#[deprecated(since = "8.11")]
+Notation lt_0_IZR := lt_0_IZR (only parsing).
+#[deprecated(since = "8.11")]
+Notation lt_IZR := lt_IZR (only parsing).
+#[deprecated(since = "8.11")]
+Notation one_IZR_lt1 := one_IZR_lt1 (only parsing).
```
Comment (silene) [inline theories/Reals/RIneq.v]: You should end the file with `Export RIneq_constr` (and similarly for the other files). Otherwise, users systematically get a deprecation warning, even if they use the unqualified form of the theorems. The warning should only be displayed for users who explicitly type `RIneq.one_IZR_lt1`.

Comment (VincentSe) [reply theories/Reals/RIneq.v]: This does not compile. RIneq now has lemmas with same names but different signatures than RIneq_constr (where equality is replaced by Req). I think the masking no longer works, Coq exports the 2 lemmas and the tactics pick the wrong one in later files. I think I should not export at all RIneq_constr from RIneq, and redefine those 8 notations as proper lemmas.

Comment (VincentSe) [reply theories/Reals/RIneq.v]: Notations reverted, there are no more warnings.

**Comment by VincentSe** [comment]
I finally added a proof that the axioms of constructive real numbers are consistent. Now it does not matter whether they look simple or complicated, no contradiction can come out of them. Of course, this proof does not extend to the classical axioms of real numbers, for which I don't know any model definable in Coq.

**Comment by silene** [comment]
Your proof of consistency depends on `RIneq_constr`, so this circularity makes it hard to be convinced it is actually a proof of consistency.

Anyway, assuming the dependency is spurious and can be removed, I am now kind of lost. Why won't you use `Rimplem_constr` to remove all the axioms from `Rdefinitions_constr` or `Raxioms_constr`? (Or perhaps that is the plan for the next commit?).

**Comment by VincentSe** [comment]
I will remove the import to RIneq_constr, there is no circle. Yes, removing the axioms was also proposed by @spitters above (that's what he did in CoRN).

The problem is in the classical part of the lib, because axiom total_order_T is a quotient. If you apply it to sequences xn = 1/n and yn = -1/n you a get a contradiction :
{ xn < yn } + { xn = yn } + { yn < xn }

That is because xn and yn are different as sequences, they only satisfy the setoid equality Req.

By axiomatizing, you forget the equality on type R and the classical quotient becomes possible. A quotient is nice by the way, it avoids the setoid machinery and only exposes one notion of equality instead of two. That's why I tried a similar quotient in the constructive part, but Bas showed it was broken: the floor function R -> Z is not constructive.

**Comment by silene** [comment]
I agree that you cannot define `R` as `CReal`.

But, since you gave up on the idea of sharing the lemmas between `RIneq_constr.v` and `RIneq.v` (due to the split between `eq` and `Req`), I don't see the point of trying to keep an axiomatic version of the constructive reals. So, on one side you would have the `CReal` type and the associated axiom-free definitions, and on the other side you would have a type `R` and a quotient function `ComputableReal : CReal -> R` (both axiomatic). As many theorems as possible would be in `_constr.v` files, and they would be ported to the original files using the quotient function (similarly to what you are currently doing using `Req_classical`).

In the end, there would be no axioms for constructive reals. And for classical reals, there would be `R`, `ComputableReal` (and whatever is needed to make sure it defines a quotient, e.g., a representation function), `total_order_T`, and `completeness`. So, that is still quite a few axioms, but at least all the arithmetic axioms would have disappeared.

Am I missing something?

**Comment by VincentSe** [comment]
Thanks Guillaume, that sounds great. I'll see if I can cook it up.

**Comment by spitters** [comment]
I imagine that the quotient axiom together with LPO should suffice.

**Comment by VincentSe** [comment]
I don't manage to define Rplus : R -> R -> R via CReal, I still need an axiom for it in what I tried. Can you show me how to do this one? I'll do the rest of them.

**Comment by spitters** [comment]
LPO and  funext might actually be enough, as it allows you to decide
whether two cauchy sequences are equivalent or not.
This means that you can define R as the equivalence classes of cauchy seq
Alternatively you can embed in the dedekind reals.

**Comment by silene** [comment]
Here is a version using an axiomatization of abstraction and representation functions (which I am sure can be implemented from the previous classical axiomatization of reals). As a benchmark, I put the definitions of `Rplus` and `Rlt` and the proofs of `Rplus_comm` and `Rplus_lt_compat_l`. Usually, there is a third axiom: `abst (repr x) = x`, but for some reason I did not need it, maybe it will come be useful for some later theorems.

```coq
Require Import Rimplem_constr.

Axiom R : Set.
Axiom abst : CReal -> R.
Axiom repr : R -> CReal.
Axiom quot1 : forall x y, CRealEq x y -> abst x = abst y.
Axiom quot2 : forall x, CRealEq (repr (abst x)) x.

Definition Rplus x y := abst (CReal_plus (repr x) (repr y)).

Lemma Rplus_comm r1 r2 : Rplus r1 r2 = Rplus r2 r1.
Proof. apply quot1, CReal_plus_sym. Qed.

Definition Rlt x y := CRealLt (repr x) (repr y).

Lemma Rplus_lt_compat_l r r1 r2 : Rlt r1 r2 -> Rlt (Rplus r r1) (Rplus r r2).
Proof.
intros H. unfold Rlt, Rplus.
rewrite 2!quot2.
now apply CReal_plus_lt_compat_l.
Qed.
```

**Comment by silene** [comment]
After thinking about it a bit more, the third axiom is most certainly needed to prove a statement like `0 + x = x`. But the first and third axioms can be merged into a single one. So, the two representation axioms would be: `CRealEq (repr x) (repr y) -> x = y` and `CRealEq (repr (abst x)) x`. And I think the first axiom can be proved from `total_order_T`. So, the only representation axiom we need is `CRealEq (repr (abst x)) x`.

**Comment by spitters** [comment]
I think it's possible and maybe more economic to reduce the construction of
the rules to logical axioms.
As i said, i believe lpo and funext will suffice.

from my phone

**Comment by VincentSe** [comment]
Here is the combination of the ideas of @silene and @spitters. It proves total_order_T as a lemma via LPO (named sig_forall_dec here). sig_forall_dec was already proved in Rlogic.v so it is not more expensive to postulate it right from the start.

Do you believe in the consistency of these axioms ? Do you think we can even prove completeness and archimed as lemmas now ?

**Comment by VincentSe** [comment]
`archimed` is simply the port of the constructive version, followed by a `total_order_T` on the middle integer. 

`completeness` can also be proved, by assuming the full excluded middle axiom. To construct the least upper bound, we define a sequence by dichotomy, using exluded middle to know if the current sequence point majorates the subset or not. We conclude by Cauchy-completeness or R, which is proved constructively.

This is good news, because it proves the axioms of R are consistent (if we accept that quotient types are consistent). 

We are left with 2 choices of axioms : LPO + `completeness` or simply the sumbool excluded middle (because it also proves LPO) . Which one do you prefer?

**Comment by silene** [comment]
Certainly the first one, as it is equiconsistent with the older set of axioms. The sumbool excluded middle is just way too strong an axiom to be applied blindly to a Coq development.

But I still find some interest in my proposal, as the axioms are only `Rquot2`, `completeness`, and `total_order_T`, while your proposal requires `Rquot1`, `Rquot2`, `Rquot3`, `completeness` and, ` sig_forall_dec`. Even if we merge `Rquot1` and `Rquot3`, that is still one more axiom.

**Comment by VincentSe** [comment]
Ok sumbool EM is out. The other propositions are equiconsistent so it's mainly a matter of taste. My personal favorites are quotient axioms, to motivate Coq developpers to give us native quotients, so that all these axioms disappear. Besides, total_order_T is not obviously true as an axiom, whereas LPO is known to be consistent with Coq. 

But then you're the maintainer of this lib, so it's your call.

**Comment by silene** [comment]
I am fine with LPO as an axiom.

**Comment by ppedrot** [comment]
FTR, the current Reals axiomatic implies weak excluded middle in Type, i.e. `forall A : Prop, {~~A} + {~A}`.  That's not very far from excluded middle in Type.

**Comment by silene** [comment]
Here, "not very far" means "equivalent to the excluded middle in Prop", so it is still far enough for me.

**Comment by VincentSe** [comment]
It's strange, the pull request looks very simple now : prove the constructive basic properties of the reals on the Cauchy rational sequence rather than axiomatize them, then axiomatize a classical quotient founded on LPO.

It took many detours to get there tough.

File: theories/Reals/Raxioms.v [hunk 11]
```diff
@@ -9,97 +9,220 @@
...
 (*********************************************************)
-(** *            Field axioms                            *)
+(** *            Field operations                        *)
 (*********************************************************)
 
 (*********************************************************)
 (** **   Addition                                        *)
 (*********************************************************)
 
+Lemma Rrepr_add_morph : forall x y:R, (Rrepr (x + y) == Rrepr x + Rrepr y)%CReal.
```
Comment (silene) [inline theories/Reals/Raxioms.v]: The operator is called `Rplus`, not `Radd`, so use `plus` for consistency. Also, the `_morph` suffix is just noise at this point, so the lemma could simply be called `Rrepr_plus`. This remark applies to all the other arithmetic operators.

File: theories/Reals/Raxioms.v [hunk 12]
```diff
@@ -139,6 +346,11 @@ Definition is_lub (E:R -> Prop) (m:R) :=
   is_upper_bound E m /\ (forall b:R, is_upper_bound E b -> m <= b).
 
 (**********)
+(* This axiom is consistent, because it can be proved by excluded middle.
+   For this, define a sequence by dichotomy, using excluded middle
+   to know whether the current point majorates E or not.
+   Then conclude by the Cauchy-completeness of R, which is proved
+   constructively. *)
```
Comment (silene) [inline theories/Reals/Raxioms.v]: Careful there. Excluded middle is not sufficient. You need excluded middle in `Set` for this kind of reasoning. Also, just because a fact can be proved using an axiom does not make it consistent (fortunately).

File: theories/Reals/Rcomplete_constr.v [hunk 13]
```diff
@@ -0,0 +1,254 @@
...
+    intro abs. subst q.
+    inversion H5. pose proof (Pos2Nat.is_pos (p~0)).
+    rewrite H7 in H6. inversion H6.
+Qed.
+
+(*
+Lemma Rcauchy_complete : forall (xn : nat -> CReal),
+    Un_cauchy_mod xn
+    -> { l : CReal & Un_cv_mod xn l }.
+Proof.
```
Comment (silene) [inline theories/Reals/Rcomplete_constr.v]: Why is this commented?

File: theories/Reals/Rdefinitions.v [hunk 14]
```diff
@@ -28,19 +28,31 @@ Bind Scope R_scope with R.
...
+(* The limited principle of omniscience *)
+Axiom sig_forall_dec
+  : forall (P : nat -> Prop), (forall n, {P n} + {~P n})
+                   -> {n | ~P n} + {forall n, P n}.
+
+Axiom Rabst : CReal -> R.
+Axiom Rrepr : R -> CReal.
+Axiom Rquot1 : forall x y, CRealEq x y -> Rabst x = Rabst y.
+Axiom Rquot2 : forall x:CReal, CRealEq (Rrepr (Rabst x)) x.
+Axiom Rquot3 : forall x:R, Rabst (Rrepr x) = x.
```
Comment (silene) [inline theories/Reals/Rdefinitions.v]: Please merge `Rquot1` and `Rquot3` into a single axiom: `CRealEq (Rrepr x) (Rrepr y) -> x = y`. No need for both axioms there.

File: theories/Reals/Rdefinitions.v [hunk 15]
```diff
@@ -103,3 +112,60 @@ Definition IZR (z:Z) : R :=
...
+      apply Rquot1. split; assumption.
+Qed.
+
+Definition Rinv : R -> R.
+Proof.
+  intro x. destruct (total_order_T x R0). destruct s.
+  - assert (Rappart (Rrepr x) (inject_Q 0)).
+    { left. unfold Rlt, R0 in r. rewrite Rquot2 in r. exact r. }
+    exact (Rabst ((CReal_inv (Rrepr x) H))).
+  - exact R0. (* / 0 is undefined, we take 0 arbitrarily *)
```
Comment (silene) [inline theories/Reals/Rdefinitions.v]: That is actually great news. A lot of lemmas of `RIneq` have pointless hypotheses just because `RInv` did not preserve the sign of its input till now.

File: theories/Reals/Rdefinitions.v [hunk 16]
```diff
@@ -103,3 +112,60 @@ Definition IZR (z:Z) : R :=
...
+  - assert (Rappart (Rrepr x) (inject_Q 0)).
+    { right. unfold Rlt, R0 in r. rewrite Rquot2 in r. exact r. }
+    exact (Rabst ((CReal_inv (Rrepr x) H))).
+Defined.
```
Comment (silene) [inline theories/Reals/Rdefinitions.v]: Since `RInv` is now transparent, its important to think at what its term looks like. For example, using `Req_dec` (or whatever it is called) instead of `total_order_T` would remove one whole branch. Putting the assertion `H` into an auxiliary lemma would make opaque the huge term proof produced by `rewrite quot2`.

File: theories/Reals/ConstructiveCauchyReals.v [hunk 17]
```diff
@@ -0,0 +1,2513 @@
...
+
+Lemma Qmult_minus_one : forall q : Q, inject_Z (-1) * q == - q.
+Proof.
+  intros. field.
+Qed.
+
+Lemma Qsub_comm : forall a b : Q, - a + b == b - a.
+Proof.
+  intros. unfold Qeq. simpl. rewrite Pos.mul_comm. ring.
+Qed.
```
Comment (silene) [inline theories/Reals/ConstructiveCauchyReals.v]: There is no reason for all the previous lemmas to be in this file. They are of general use.

File: theories/Reals/ConstructiveCauchyReals.v [hunk 18]
```diff
@@ -0,0 +1,2513 @@
...
+    unfold Qlt. simpl. unfold Z.lt. auto. apply H. apply Pos.le_refl.
+  - apply (Qlt_not_le (proj1_sig y (Pos.to_nat n)) (proj1_sig x (Pos.to_nat n))).
+    apply H0. apply Pos.le_refl. apply Qlt_le_weak.
+    apply (Qplus_lt_l _ _ (-proj1_sig x (Pos.to_nat n))).
+    rewrite Qplus_opp_r. apply (Qlt_trans _ (2#p)).
+    unfold Qlt. simpl. unfold Z.lt. auto. apply H. assumption.
+Qed.
+Hint Resolve Rlt_asym: creal.
+
+Lemma Rlt_irrefl : forall x:CReal, ~(x < x).
```
Comment (silene) [inline theories/Reals/ConstructiveCauchyReals.v]: `CRealLt_irrefl`?

File: theories/Reals/ConstructiveCauchyReals.v [hunk 19]
```diff
@@ -0,0 +1,2513 @@
...
+    rewrite Pos.mul_xO_r. reflexivity.
+  - unfold Qminus. rewrite Qplus_le_r.
+    setoid_replace (zn (Pos.to_nat (2 * n)) + - yn (Pos.to_nat (2 * n)))
+      with (- (yn (Pos.to_nat (2 * n)) - zn (Pos.to_nat (2 * n)))).
+    apply Qopp_le_compat. setoid_replace (1 # n) with (2 # 2* n).
+    rewrite <- CRealLe_not_lt in H0.
+    apply H0. unfold Qeq. reflexivity. field.
+Qed.
+
+Lemma Rlt_trans : forall x y z : CReal,
```
Comment (silene) [inline theories/Reals/ConstructiveCauchyReals.v]: `CRealLt_trans`?

File: theories/Reals/ConstructiveCauchyReals.v [hunk 20]
```diff
@@ -0,0 +1,2513 @@
...
+Notation "0" := (inject_Q 0) : R_scope_constr.
+Notation "1" := (inject_Q 1) : R_scope_constr.
+
+(* Axiom Rlt_0_1 *)
+Lemma CZeroLtOne : CRealLt (inject_Q 0) (inject_Q 1).
+Proof.
+  exists 3%positive. reflexivity.
+Qed.
+
+Notation Rlt_0_1 := CZeroLtOne (only parsing).
```
Comment (silene) [inline theories/Reals/ConstructiveCauchyReals.v]: To be removed?

File: theories/Reals/ConstructiveCauchyReals.v [hunk 21]
```diff
@@ -0,0 +1,2513 @@
...
+
+Infix "-" := CReal_minus : R_scope_constr.
+
+Lemma belowMultiple : forall n p : nat, lt 0 p -> le n (p * n).
+Proof.
+  intros. rewrite <- (mult_1_l n). apply Nat.mul_le_mono_nonneg.
+  auto. assumption. apply le_0_n. rewrite mult_1_l. apply le_refl.
+Qed.
+
+Lemma Rplus_assoc : forall (x y z : CReal),
```
Comment (silene) [inline theories/Reals/ConstructiveCauchyReals.v]: `CReal_plus_assoc`?

File: theories/Reals/ConstructiveCauchyReals.v [hunk 22]
```diff
@@ -0,0 +1,2513 @@
...
+  apply Qabs_triangle.
+  rewrite <- (Qplus_same_denom 1 1 n). apply Qplus_le_compat.
+  apply Qle_lteq. left. apply limx. rewrite mult_assoc.
+  apply belowMultiple. simpl. auto. apply belowMultiple. auto.
+  apply Qle_lteq. left. apply limz. apply belowMultiple. auto.
+  rewrite mult_assoc. apply belowMultiple. simpl. auto. field.
+Qed.
+Hint Resolve Rplus_assoc: creal.
+
+Lemma Rplus_comm : forall x y : CReal,
```
Comment (silene) [inline theories/Reals/ConstructiveCauchyReals.v]: `CReal_plus_comm`

File: theories/Reals/ConstructiveCauchyReals.v [hunk 23]
```diff
@@ -0,0 +1,2513 @@
...
+  unfold CReal_plus, proj1_sig.
+  setoid_replace (xn (2 * Pos.to_nat n)%nat + yn (2 * Pos.to_nat n)%nat
+                    - (yn (2 * Pos.to_nat n)%nat + xn (2 * Pos.to_nat n)%nat))%Q
+    with 0%Q.
+  unfold Qle. simpl. unfold Z.le. intro absurd. inversion absurd.
+  field.
+Qed.
+Hint Resolve Rplus_comm: creal.
+
+Lemma Rplus_0_l : forall r : CReal,
```
Comment (silene) [inline theories/Reals/ConstructiveCauchyReals.v]: And so on. Either you decide to systematically reuse the older names, or you only use new ones, but not a mix of both. Obviously, the same applies to `RIneq_constr`. Actually, I don't mind if only the older names are used and if names are qualified by the module name in case of ambiguity.

File: plugins/micromega/coq_micromega.ml [hunk 24]
```diff
@@ -181,6 +181,7 @@ struct
       ["Coq" ; "micromega" ; "RingMicromega"];
       ["Coq" ; "micromega" ; "EnvRing"];
       ["Coq";"QArith"; "QArith_base"];
+      ["Coq";"Reals" ; "Rdefinitions_constr"];
```
[the remark this answers is not in the document]
Comment (VincentSe) [reply plugins/micromega/coq_micromega.ml]: I'll revert coq_micromega.ml

File: theories/Reals/Rcomplete_constr.v (hunk 13 above)
Comment (VincentSe) [reply theories/Reals/Rcomplete_constr.v]: Not finished yet, I'll do it tonight

File: theories/Reals/ConstructiveCauchyReals.v (hunk 23 above)
Comment (VincentSe) [reply theories/Reals/ConstructiveCauchyReals.v]: This depends on another, more important problem. I simplified Rinv to 4 lines of plain gallina, but Rplus, Rmult and Ropp are still transparent, all the way down to Cauchy sequences. I'll restart the continuous integration this night, but I fear that Coquelicot will fail again, after it exceeds 6 hours of build.

If this happens, I think we need to hide the Cauchy sequences behind an R-structure record, as is done in C-CoRN. ConstructiveCauchyReals would only be imported once, to produce an inhabitant of this structure, then we would forget about it and use this inhabitant opaquely. In this case I would revert to the original names of ConstructiveCauchyReals, because those names would never leave this file.

Comment (silene) [reply theories/Reals/ConstructiveCauchyReals.v]: Note that you can use modules to make definitions truly kernel-wise opaque:
```coq
Module Type Sig.
  Parameter Rplus : R -> R -> R.
  Parameter Rplus_def : forall x y : R, Rplus x y = Rabst (CReal_plus (Rrepr x) (Rrepr y)).
End Sig.
Module Impl : Sig.
  Definition Rplus x y := Rabst (CReal_plus (Rrepr x) (Rrepr y)).
  Definition Rplus_def x y : Rplus x y = Rabst (CReal_plus (Rrepr x) (Rrepr y)) := eq_refl.
End Impl.
Export Impl.
```

File: theories/Reals/Rdefinitions.v (hunk 15 above)
Comment (VincentSe) [reply theories/Reals/Rdefinitions.v]: Also, you see the problem with the `field` tactic. Constructively `Rinv` is a partial function that takes a real number and a proof that it is appart from 0 (because all constructive total functions on R must be continuous, and there is no way to connect positive and negative infinity at 0).

I've never developped a tactic before, I don't know how we can adapt `field`.

Comment (silene) [reply theories/Reals/Rdefinitions.v]: I am not quite sure how it is related to my remark. But if you are asking if `field` can be made to work with constructive reals, then the answer is no. It was designed with total functions in mind. Changing it to partial functions would be insanely difficult in my opinion.

Also, the fact that all the proof of apartness are given does not help much. Consider the term `a / (1 + a/b)`. It contains the proofs that `b` and `1 + a/b` are apart from zero. Its normal form is `(a * b) / (a + b)`, so you need a proof that `a + b` is apart from zero. This proof can obviously be built from the two previous proofs, but there is nothing simple about it.

**Comment by spitters** [comment]
corn has a reflective field tactic, it's quite complicated.
https://github.com/coq-community/corn/blob/master/tactics/FieldReflection.v
and I seem to recall we removed most uses of it.

IIRC in math-classes we never used a field tactic, but instead did
autorewrites to remove the denominator. Then we used ring.
https://github.com/coq-community/math-classes/blob/master/theory/fields.v

File: theories/Reals/ConstructiveCauchyReals.v (hunk 23 above)
Comment (VincentSe) [reply theories/Reals/ConstructiveCauchyReals.v]: How can we define functions in `Sig` ? For example `IQR`, that would be specialized automatically for each defined implementation of `Sig` ? If I use `Definition` and provide a formula, `Impl` still requires me to fill the field.

**Comment by spitters** [comment]
In math classes we use implicit arguments/type classes to find these proof
terms. Combined with notation this looks quite nice.

from my phone

**Comment by spitters** [comment]
That seems to strong. I would expect LPO in type. What's the axiom of the
reals that makes this possible?

from my phone

**Comment by VincentSe** [comment]
@spitters This is lemma sig_not_dec in file Rlogic.v. It uses the `completeness` axiom plus `Rle_lt_dec`. The latter derives from LPO.

**Comment by VincentSe** [comment]
Several commented and admitted lemmas in this commit, I start the continuous integration to test the compilation speed of the opaque module. On my machine it is much faster than transparent operations.

**Comment by silene** [comment]
You missed the point. It is not the constructive definitions that need to be made opaque. They are new, so they certainly cannot break backward compatibility. It is the old axioms that have become definitions thanks to your work. As I showed in my example, it is the following definition that the kernel should be unable to unfold:

```coq
Definition Rplus x y := Rabst (CReal_plus (Rrepr x) (Rrepr y)).
```

And similarly for `R0`, `R1`, `Rmult`, `Ropp`, `Rinv`, and `Rlt`.

**Comment by VincentSe** [comment]
@silene I also want the constructive reals to be opaque. When we will move lemmas to the constructive part, we will face the same compilation speed issues (the definition of Rmult and Rinv explode when you unfold them, or when you `simpl` them). Do you want 2 opaque modules then ? One for the constructive reals and one for the classical reals ?

In the current state, Flocq built in 13 minutes in the continuous integration, which is even faster than the last integrated pull request (15 minutes) : 
https://gitlab.com/coq/coq/-/jobs/249760603
And classical reals are almost opaque, because `Rabst (CReal_plus (Rrepr x) (Rrepr y))` is a very short proof term (`CReal_plus` is opaque now).

Also, I see that you have the copyright of SF_seq.v in Coquelicot, can you see why it didn't build ? It complains about LHS and duplicate clears. Might be because the constructive real type is also called `R`, shall I rename it to `CR` ? If you have suggestions, I can only start the integration in the next 30 minutes today.

**Comment by VincentSe** [comment]
@silene Acutally we must keep `Rrepr` visible, it's the link that allows us to port lemmas from the constructive to the classical side (see how RIneq.v proves lemmas by calling RIneq_constr.v now). How can we opacify more than that ?

**Comment by silene** [comment]
So, let me say it again: it is sufficient and necessary that you make the following symbols opaque: `R0`, `R1`, `Rplus`, `Rmult`, `Ropp`, `Rinv`, and `Rlt` (the classical ones). Presumably, Coquelicot is failing to compile because `R1` is not opaque. Making them opaque is not just a matter of short proofs and performances, it is a matter of backward compatibility. They could not be unfolded before (accidentally or not); allowing them, even toward short proof terms, can and does break scripts.

**Comment by VincentSe** [comment]
@silene Ok you're right. I'll revert my last commit tonight and focus on those symbols.

**Comment by Zimmi48** [comment]
If you want to do actual benchmarking, we have a specific infrastructure for this. Our CI is not reliable to do this kind of tests (the runners are not always the same).

**Comment by ejgallego** [comment]
> They could not be unfolded before (accidentally or not); allowing them, even toward short proof terms, can and does break scripts.

Indeed you can have them "locked", so they become rewritable symbols after the `unlock` tactic has been applied.

**Comment by VincentSe** [comment]
Concerning the names, I'll use "CReal" everywhere in file ConstructiveCauchyReals.v. I'll also write a comment at the beginning of it, saying that it should never be imported (except in the 4 files of this pull request), so that its names don't leak.

RIneq_constr.v is enough to bootstrap the constructive reals and it treats them abstractly, without disclosing that they are implemented as Cauchy sequences. That's the file that should be imported for all constructive reals developments.

**Comment by spitters** [comment]
@VincentSe I still believe that *defining* R as a quotient using funext is clearer.
In this way only logical axioms are needed. Why do you prefer the other approach?

( To be sure @silene remark about about opagueness is orthogonal. )

**Comment by silene** [comment]
I certainly prefer not using funext. It was not used and could not be derived from the existing axioms. Adding this axiom is not innocuous.

**Comment by spitters** [comment]
Funext from Q to bool should be enough, I think. As this should give
jugdmental equality on the Dedekind reals.
That form of funext clearly holds in the set theoretical model.
The axioms for the classical Coq reals have always seemed baroque to me.
What is their justification? The set theoretical model?

**Comment by VincentSe** [comment]
The smaller opacity modules do not pass the tests, because `Rdefinitions.Rplus` no longer exists. This symbol is now named `Rdefinitions.RbaseSymbolsImpl.Rplus`. Any ideas how to fix this ?

**Comment by silene** [comment]
Same trick as before, use a notation to add an indirection (except that it does not have to be deprecated, this time).

**Comment by VincentSe** [comment]
Now we have a problem with `r_syntax.ml` the parser and printer of real numbers. I bet it's this line
`let glob_Rmult = ConstRef (Constant.make2 r_modpath @@ Label.make "Rmult")`
Because we used a notation on Rmult, this OCaml instruction probably doesn't find it anymore.

**Comment by VincentSe** [comment]
@silene @spitters I think axiom `completeness` can be proved from axiom `sig_not_dec` (which is in Rlogic.v after LPO). By the same argument I already told : you build a Cauchy sequence by dichotomy, whether the current point majorates the subset or not. The Prop that y majorates the subset is a negation : ~exists x, subset x /\ y < x, so `sig_not_dec` can decide it. 

This would give us purely logical and equivalent axioms that found the classical reals. Those axioms are known to be consistent with Coq. I can do this in another pull request if you want.

**Comment by spitters** [comment]
That would be the usual direction in which mathematics is developed. The
current one is reverse mathematics.
https://en.m.wikipedia.org/wiki/Reverse_mathematics

Yes, i think the usual direction would be the more natural one.

from my phone

**Comment by silene** [comment]
> Those axioms are known to be consistent with Coq.

No, they are not known to be so. But at least, they are equiconsistent with the previous axioms. (And just so that there is no misunderstanding, I am the one who proved most of the results that are nowadays in `RLogic.v`, including `sig_not_dec`.)

**Comment by VincentSe** [comment]
@silene The continuous integration passes now. Is there something else that prevents merging?

**Comment by silene** [comment]
Yes, as pointed by @Zimmi48 , the pull request is missing a changelog entry. Also, it would be worth doing a bit of history rewriting, because there have been a lot of back and forth (I can do that, if you don't want to).

File: theories/Reals/Rcomplete_constr.v [hunk 25]
```diff
@@ -0,0 +1,348 @@
...
+Definition RQ_limit : forall (x : CReal) (n:nat),
+    { q:Q | x < IQR q < x + IQR (1 # Pos.of_nat n) }.
+Proof.
+  intros x n. apply (FQ_dense x (x + IQR (1 # Pos.of_nat n))).
+  rewrite <- (Rplus_0_r x). rewrite Rplus_assoc.
+  apply Rplus_lt_compat_l. rewrite Rplus_0_l. apply IQR_pos.
+  reflexivity.
+Qed.
+
+Lemma Qminus_same_denom : forall a b c, ((a # c) + - (b # c) == (a-b) # c)%Q.
```
Comment (silene) [inline theories/Reals/Rcomplete_constr.v]: This lemma is already defined in `ConstructiveCauchyReals`. And as I already said before, it should not even be there. It is a general-purpose lemma that should be moved somewhere in the QArith library.

**Comment by VincentSe** [comment]
@silene. Please do. I don't have my computer this weekend, if you want me to finish this pull request it has to wait Tuesday morning.

File: theories/Reals/Rcomplete_constr.v [hunk 26]
```diff
@@ -0,0 +1,348 @@
...
+Lemma Un_cv_mod_eq : forall (v u : nat -> CReal) (s : CReal),
+    (forall n:nat, u n == v n)
+    -> Un_cv_mod u s -> Un_cv_mod v s.
+Proof.
+  intros v u s seq H1 p. specialize (H1 p) as [N H0].
+  exists N. intros. rewrite <- seq. apply H0. apply H.
+Qed.
+
+Lemma IPR_double_inv : forall n : positive,
+    IQR (1 # 2*n) + IQR (1 # 2*n) == IQR (1 # n).
```
Comment (silene) [inline theories/Reals/Rcomplete_constr.v]: `IQR_double_inv`?

File: plugins/micromega/RMicromega.v [hunk 27]
```diff
@@ -244,6 +244,8 @@ Proof.
   - apply Q2R_pow_pos.
 Qed.
 
+Open Scope Q_scope.
+
```
Comment (silene) [inline plugins/micromega/RMicromega.v]: Changes to `RMicromega.v` seem to be useless now.

File: theories/Reals/Rdefinitions.v [hunk 28]
```diff
@@ -28,19 +28,74 @@ Bind Scope R_scope with R.
...
+Notation Rplus := RbaseSymbolsImpl.Rplus (only parsing).
+Notation Rmult := RbaseSymbolsImpl.Rmult (only parsing).
+Notation Ropp := RbaseSymbolsImpl.Ropp (only parsing).
+Notation Rlt := RbaseSymbolsImpl.Rlt (only parsing).
+Notation R0_def := RbaseSymbolsImpl.R0_def (only parsing).
+Notation R1_def := RbaseSymbolsImpl.R1_def (only parsing).
+Notation Rplus_def := RbaseSymbolsImpl.Rplus_def (only parsing).
+Notation Rmult_def := RbaseSymbolsImpl.Rmult_def (only parsing).
+Notation Ropp_def := RbaseSymbolsImpl.Ropp_def (only parsing).
+Notation Rlt_def := RbaseSymbolsImpl.Rlt_def (only parsing).
```
Comment (silene) [inline theories/Reals/Rdefinitions.v]: No need for parsing notations for all the `_def` symbols. We have no backward compatibility to preserve here.

File: theories/Reals/Rdefinitions.v [hunk 29]
```diff
@@ -103,3 +155,83 @@ Definition IZR (z:Z) : R :=
...
+Module RinvImpl : RinvSig.
+  Definition Rinv : R -> R
+    := fun x => match Req_appart_dec x R0 with
+             | left _ => R0 (* / 0 is undefined, we take 0 arbitrarily *)
+             | right r => Rabst ((CReal_inv (Rrepr x) (Rrepr_appart_0 x r)))
+             end.
+  Definition Rinv_def := fun x => eq_refl (Rinv x).
+End RinvImpl.
+Notation Rinv := RinvImpl.Rinv (only parsing).
+Notation Rinv_def := RinvImpl.Rinv_def (only parsing).
```
Comment (silene) [inline theories/Reals/Rdefinitions.v]: Same here.

**Review by silene — CHANGES_REQUESTED** [review]

**Comment by VincentSe** [comment]
@silene So do you want to wait for me to correct these on Tuesday or will you do them yourself?

File: theories/Reals/Rdefinitions.v (hunk 29 above)
Comment (VincentSe) [reply theories/Reals/Rdefinitions.v]: Done

File: theories/Reals/Rdefinitions.v (hunk 28 above)
Comment (VincentSe) [reply theories/Reals/Rdefinitions.v]: Done

File: plugins/micromega/RMicromega.v (hunk 27 above)
Comment (VincentSe) [reply plugins/micromega/RMicromega.v]: Done

File: theories/Reals/Rcomplete_constr.v (hunk 25 above)
Comment (VincentSe) [reply theories/Reals/Rcomplete_constr.v]: Done

File: theories/Reals/Rcomplete_constr.v (hunk 26 above)
Comment (VincentSe) [reply theories/Reals/Rcomplete_constr.v]: Done

**Comment by VincentSe** [comment]
@silene I installed OCaml on my aunt's machine, that seemed to amaze her. What do you want to do about git's history ? Shall I squash all commits into a single one ? Shall I do this after you have said everything that needs correction ?

**Comment by spitters** [comment]
@silene I was surprised about your statement that classical logic in Set is not known to be consistent.
As you know there are some equivalences here.
https://coq.inria.fr/library/Coq.Logic.ClassicalDescription.html

I had imagined someone would have checked this to hold in the set theoretical models of "Coq" e.g.
Lee-Werner
https://arxiv.org/abs/1111.0123
or @mattam82 and @amintimany 
https://arxiv.org/abs/1710.03912
However, it does not seem to be there. Is this really still open, or did people just didn't bother to record it?

**Comment by ppedrot** [comment]
> However, it does not seem to be there. Is this really still open, or did people just didn't bother to record it?

I think this is trivial. If you take the standard Set model where the target theory is classical ZF instead of IZF, you get excluded middle in Type immediately.

**Comment by spitters** [comment]
Yes, I had the same impression. However, if you look at the references I
linked to you see that there is no "standard set model" of Coq.
Do you mean the pCuIC one?

**Comment by VincentSe** [comment]
@silene All the changes you requested are done (including the changelog entry) and the continuous integration passes.

What do you want to do next ? Do you still see things to correct ? Concerning git's history, shall I squash all commits into a single one ?

File: theories/Reals/Rdefinitions.v [hunk 30]
```diff
@@ -28,19 +28,68 @@ Bind Scope R_scope with R.
...
-Parameter Rinv : R -> R.
-Parameter Rlt : R -> R -> Prop.
-Parameter up : R -> Z.
+(* The limited principle of omniscience *)
+Axiom sig_forall_dec
+  : forall (P : nat -> Prop), (forall n, {P n} + {~P n})
+                   -> {n | ~P n} + {forall n, P n}.
+
+Axiom Rabst : CReal -> R.
+Axiom Rrepr : R -> CReal.
```
Comment (Zimmi48) [inline theories/Reals/Rdefinitions.v]: To me these two would make more sense as `Parameter` wouldn't they?

File: doc/changelog/10-standard-library/10445-constructive-reals.rst [hunk 31]
```diff
@@ -0,0 +1,7 @@
+- Define constructive real numbers by Cauchy sequences of rational numbers.
+  Redefine classical real numbers as a quotient of constructive real numbers.
+  Move proofs of constructive theorems of RIneq.v into the new RIneq_constr.v file,
+  port them back into RIneq.v by the quotient functions.
```
Comment (Zimmi48) [inline doc/changelog/10-standard-library/10445-constructive-reals.rst]: You can advertise your work better than this! Here it looks like a commit message.
I would be more specific, and use a different tense. Something like:

>New module `Reals.ConstructiveCauchyReals` defines constructive real numbers by Cauchy sequences of rational numbers. Classical real numbers are now defined as a quotient of these constructive real numbers, which significantly reduces the number of axioms needed (see `Reals.Rdefinitions` and `Reals.Raxioms`), while preserving backward compatibility.

I would not bother with the last sentence from your current changelog entry: this really looks more like a technical detail.

**Comment by VincentSe** [comment]
Thanks @Zimmy48, you're right. I'll rewrite my changelog tomorrow. I wouldn't stress the Cauchy sequences that much though, they're not the only implementation possible and I understand the constructive reals much better by the lemmas of RIneq_constr.v.

What's the difference between parameter and axiom?

**Comment by Zimmi48** [comment]
> What's the difference between parameter and axiom?

They are semantically the same. That's just a matter of the meaning we want to express (object vs property).

File: theories/Reals/Rdefinitions.v (hunk 30 above)
Comment (VincentSe) [reply theories/Reals/Rdefinitions.v]: I have no opinion on that, I let @silene decide.

File: doc/changelog/10-standard-library/10445-constructive-reals.rst (hunk 31 above)
Comment (VincentSe) [reply doc/changelog/10-standard-library/10445-constructive-reals.rst]: Done

File: theories/Reals/Rdefinitions.v (hunk 30 above)
Comment (silene) [reply theories/Reals/Rdefinitions.v]: I tend to use `Parameter` when the symbol can be instantiated through module substitution. If the symbol is set in stone once and for all, I prefer `Axiom`. But that is really just my personal nomenclature. I don't mind either way.

**Comment by silene** [comment]
> Concerning git's history, shall I squash all commits into a single one?

Either that, or the following approximate sequence of commits:
1. Cauchy sequences (`ConstructiveCauchyReals`, `QArith_base`),
2. constructive arithmetic (`RIneq_constr`, `Rcomplete_constr`),
3. instantiation of axioms (`Rdefinitions`, `Raxioms`, `r_syntax`),
4. cleanup (changelog, index, `RIneq`).

File: theories/Reals/Rdefinitions.v [hunk 32]
```diff
@@ -86,12 +86,6 @@ Notation Rplus := RbaseSymbolsImpl.Rplus (only parsing).
 Notation Rmult := RbaseSymbolsImpl.Rmult (only parsing).
 Notation Ropp := RbaseSymbolsImpl.Ropp (only parsing).
 Notation Rlt := RbaseSymbolsImpl.Rlt (only parsing).
-Notation R0_def := RbaseSymbolsImpl.R0_def (only parsing).
-Notation R1_def := RbaseSymbolsImpl.R1_def (only parsing).
-Notation Rplus_def := RbaseSymbolsImpl.Rplus_def (only parsing).
-Notation Rmult_def := RbaseSymbolsImpl.Rmult_def (only parsing).
-Notation Ropp_def := RbaseSymbolsImpl.Ropp_def (only parsing).
-Notation Rlt_def := RbaseSymbolsImpl.Rlt_def (only parsing).
```
Comment (silene) [inline theories/Reals/Rdefinitions.v]: Note that you should put `Export RbaseSymbolsImpl` here. There is no reason for the other files to know about this implementation detail. (In an ideal world, Coq would make it possible to mark a definition as opaque without going through a module signature.) In particular, `RIneq.v` should not have to contain all those `RbaseSymbolsImpl.*` qualifications.

**Comment by silene** [comment]
> I was surprised about your statement that classical logic in Set is not known to be consistent.

I was not talking about this axiom in isolation. I was talking about the axioms of `Reals` as a whole (and any extraneous axiom that is added to them). Taking two consistent systems of axioms and putting them together do not tell us anything about the resulting system. As far as I understand, these axioms were once proved to be inconsistent with the logic of Coq, and the logic of Coq had to be changed accordingly. People seem to think that they are now consistent, but I don't think anyone bothered proving it.

File: theories/Reals/Rdefinitions.v (hunk 30 above)
Comment (VincentSe) [reply theories/Reals/Rdefinitions.v]: Ok I'll leave `Axiom` then, because it is an axiom. Even though I agree that it is not an axiom that it must be an `Axiom`...

**Comment by VincentSe** [comment]
@silene I squashed all commits into a single one, because I don't think anyone would try to cherry-pick 1, 2, 3 or 4 in isolation.

File: theories/Reals/Rdefinitions.v (hunk 32 above)
Comment (VincentSe) [reply theories/Reals/Rdefinitions.v]: Done

**Comment by herbelin** [comment]
A remark on `Rrepr`: I don't exclude that `Rrepr : R -> CReal` could eventually be justified computationally but my feeling is that the following weaker variants would be easier to realize:
```
Axiom Rrepr_non_dep:
  forall (P:Type) (f:CReal -> P), (forall x y, CRealEq x y -> f x = f y) -> R -> P.
Axiom Rrepr_prop :
  forall (P:R->Prop), (forall r:CReal, P (Rabst r)) -> forall r:R, P r.
Axiom Rquot :
  forall x y:CReal, CRealEq x y -> Rabst x = Rabst y.
```
My rationale is the following: the day we will be able to give a realizer for excluded-middle (by reasoning independently in a continuation for `A` and in a continuation for `~A` every time we rely on an assumption of the form `{A} + {~A}`), a realizer for the variants of `Rrepr` above will be canonically obtainable by extracting the (intuitionistic) underlying Cauchy sequence. But if we want a `Rrepr` of type `R -> CReal`, its computational content would a priori be more complicated, requiring continuation-passing-style to build each individual value of a (thus classical) approximation of the underlying Cauchy sequence.

Having `Rrepr : R -> CReal` is certainly more convenient to use than the above. Moreover, computing with classical logic in Coq will maybe not arrive before many years from now on, so that, in practice, it may be not worth worrying too much. But I'd just like the remark to be made.

Note: with the alternative view at `Rrepr`, `Rquot1` and `Rquot2` are (suspectingly) replaceable in practice by calls to `Rrepr_prop` while the functions `Rplus`, `Rmult`, etc. are (suspectingly) definable using `Rrepr_non_dep` and `Rquot`.

**Comment by herbelin** [comment]
A remark about naming in passing: there is `ConstructiveCauchyReals.v` but `RIneq_constr.v` and `Rcomplete_constr.v`. I see also `ConstructiveMeasureTheory.v` in #9185. So, if there is some naming policy to establish, why not `ConstructiveRIneq.v`?

**Comment by VincentSe** [comment]
@herbelin I think `Rrepr : R -> CReal` is definable from `Rrepr_non_dep, Rrepr_prop, Rquot`. If you have enough power to prove the previous axioms of the stdlib reals, you can build a rational sequence converging to any real number x by the following:

1. Take a natural number n > 0
2. If x >= 0, try all rational numbers k/2n until you find one between x and x+1/n (by `total_order_T`). The search terminates because k < 2nx+2 and `up (2nx+2)` gives you an integer bound.
3. If x < 0, do the same with -k/2n

So is `Rrepr_non_dep, Rrepr_prop, Rquot` really better than `Rrepr` ?

**Comment by herbelin** [comment]
> So is `Rrepr_non_dep`, `Rrepr_prop`, `Rquot` really better than Rrepr ?

So, you're saying that for any Cauchy sequence we can compute a canonical Cauchy sequence `f` with same limit by taking for `f_n` the smallest number `q` with `n` binary digits after the comma so that `q > x`? I did not realize that. This would indeed give a way to implement `Rrepr` as you stated it in a nicer way than by the classical reasoning I thought would have been necessary.

**Comment by VincentSe** [comment]
@herbelin Yes, exactly :)

**Comment by VincentSe** [comment]
@herbelin @silene I renamed ConstructiveRIneq and ConstructiveRcomplete, which are indeed clearer. So are we good ? Note that this pull request is not the end of the story, I plan to do another pull request on `sig_not_dec` right after, with other opportunities of corrections...

**Comment by herbelin** [comment]
> Yes, exactly :)

Actually, it seems that we are saying the same thing. If you use `total_order_T` (about which I did not pay attention that it was the classical version in my [last](https://github.com/coq/coq/pull/10445#issuecomment-511966568) answer above), you are classical and your definition of `Rrepr : R -> CReal` is not essentially different from the classical one I was talking about in my sentence "requiring continuation-passing-style to build each individual value of a (thus classical) approximation of the underlying Cauchy sequence".

So, I come back to what I said [above](https://github.com/coq/coq/pull/10445#issuecomment-511933084): we could give a constructive contents to `Rrepr_non_dep` (as a HIT elimination principle) but it is unclear (or even false?) that `Rrepr : R -> CReal` can be realized intuitionistically. And, as in [above](https://github.com/coq/coq/pull/10445#issuecomment-511933084), this is just a remark and not a problem per se.

**Comment by VincentSe** [comment]
@herbelin The converging sequence can also be obtained constructively by `linear_order_T` (the constructive version of `total_order_T`), with a slightly more complicated algorithm. 

The full details are in `RQ_limit` in `ConstructiveRcomplete.v`, which is constructive and axiom-free.

**Comment by silene** [comment]
Just to be clear, `Rrepr : R -> CReal` does not make sense in a purely intuitionistic setting, as mapping two equivalent but different Cauchy sequences toward the same Cauchy sequence (even with extensionally equality) requires an infinite amount of lookup. So, you need some kind of oracle, e.g., the LPO.

**Comment by VincentSe** [comment]
@herbelin Also, if you want to axiomatize induction schemes, I think you need to add this one
```
Axiom Rrepr_non_dep_spec:
  forall (P:Type) (f:CReal -> P) (fQuot : forall x y, CRealEq x y -> f x = f y) (x:CReal),
  Rrepr_non_dep P f fQuot (Rabst x) = f x.
```
Otherwise you know nothing about the functions that `Rrepr_non_dep` produces (with usual inductive types, this equality is definitional, given by the `fix` keyword). We can discuss this in another pull request : those axioms are hidden, the theorems of real numbers use the lemmas of `RIneq` instead.

**Comment by VincentSe** [comment]
Hello @silene, where do we stand ? @herbelin agrees, @spitters agrees, @Zimmi48 and @ppedrot made good suggestions and you seem to agree too. So when do we merge ? It does not have to be today, but I need a time schedule to organize my work. Thanks

File: doc/changelog/10-standard-library/10445-constructive-reals.rst [hunk 33]
```diff
@@ -0,0 +1,30 @@
...
+  as a quotient of these constructive real numbers, which significantly reduces
+  the number of axioms needed (see `Reals.Rdefinitions` and `Reals.Raxioms`),
+  while preserving backward compatibility.
+
+  Futhermore, the new axioms for classical real numbers include the limited
+  principle of omniscience (`sig_forall_dec`), which is a logical principle
+  instead of an ad hoc property of the real numbers. In a future pull request
+  we propose to deduce the other axiom, `completeness`, from the logical
+  principle `sig_not_dec` (see `Reals.Rlogic`), which is the excluded middle
+  of negations in sort `Type`.
```
Comment (Zimmi48) [inline doc/changelog/10-standard-library/10445-constructive-reals.rst]: This last sentence does not belong to the changelog (which is about what is done), you could move it to the commit messages.

File: doc/changelog/10-standard-library/10445-constructive-reals.rst [hunk 34]
```diff
@@ -0,0 +1,30 @@
...
+  completely backward compatible : it assumes funext, which is more
+  powerful than ad hoc quotient axioms.
+
+  Future work includes the development of constructive analysis, by
+  moving the constructive lemmas in new modules (see `Reals.RIneq_constr`),
+  and by interfacing tighter with libraries C-CoRN and math-classes.
+  Since the constructive definitions are weaker, this will require
+  to adapt the definitions in some places. We also need to work on
+  efficient extractions of constructive real numbers, so that we can
+  compute them in practice.
```
Comment (Zimmi48) [inline doc/changelog/10-standard-library/10445-constructive-reals.rst]: Same remark for the two paragraphs above.

File: doc/changelog/10-standard-library/10445-constructive-reals.rst [hunk 35]
```diff
@@ -0,0 +1,30 @@
...
+
+  See `#10445 <https://github.com/coq/coq/pull/10445>`_, by Vincent Semeria.
```
Comment (Zimmi48) [inline doc/changelog/10-standard-library/10445-constructive-reals.rst]: I think you should credit the main reviewers (Bas and Guillaume IIRC) for their help in moving this PR to what it has become. See the template in the changelog README for how to present it.

**Review by Zimmi48 — COMMENTED** [review]
Now the changelog entry is too long. But with the removal of the parts about the future work (see comments below), it becomes the right size (I think) for what is an important change to the standard library.

File: doc/changelog/10-standard-library/10445-constructive-reals.rst (hunk 35 above)
Comment (VincentSe) [reply doc/changelog/10-standard-library/10445-constructive-reals.rst]: Sure. I'll do it tonight.

Comment (VincentSe) [reply doc/changelog/10-standard-library/10445-constructive-reals.rst]: Done

File: doc/changelog/10-standard-library/10445-constructive-reals.rst (hunk 34 above)
Comment (VincentSe) [reply doc/changelog/10-standard-library/10445-constructive-reals.rst]: Done

File: doc/changelog/10-standard-library/10445-constructive-reals.rst (hunk 33 above)
Comment (VincentSe) [reply doc/changelog/10-standard-library/10445-constructive-reals.rst]: Done

**Comment by spitters** [comment]
Where do we stand on this? This seems like a substantial improvement, where a lot of work has been done by @VincentSe . There's some clear further work, but I don't that should block merging this one.

**Review by silene — APPROVED** [review]

**Comment by Zimmi48** [comment]
Shouldn't the "needs" labels be removed now BTW?

**Comment by VincentSe** [comment]
@Zimmi48 Yes I think so too. Also I think I reverted the file of @amahboubi, so she should no longer be listed as a reviwer. Next, the change in `r_syntax.ml` is trivial and tested in the continuous integration, so it does not need a review.

Then the last reviewer is @herbelin, who can also merge when he approves.

**Comment by VincentSe** [comment]
Actually @herbelin accepted 9 days ago :
> No opposition on my side at the current time.
and he might be on holidays now. Can someone else merge ? I have other pull requests I'd like to propose, to build on top of this one.

**Comment by Zimmi48** [comment]
Yes, @herbelin has a tendency on accepting PRs without using the formal approval button. It seems to me that given his involvement in reviewing the PR, @silene is the natural assignee here.

**Review by herbelin — APPROVED** [review]
> Yes, @herbelin has a tendency on accepting PRs without using the formal approval button.

It is a question of balance. I'm supporting the purpose of the PR which is conceptually interesting and addressing pending questions on the organization of a library of reals. I had a quick look a week ago but I did not enter enough into the details to claim having reviewed the PR though. If the approve button were able to make more explicit the level of reading done, I may use it more often.

More can be said about the constructive axiomatization (for instance I have question about the floor function that I shall ask later) but I'm in phase with the sentence "Note that this pull request is not the end of the story" and that it seems to be a right time to merge it.

Before merging, note that there is now a typo due to the renaming I suggested: there is still an occurrence of the name `Rineq_constr.v` in `ConstructiveCauchyReals.v `.

After merge, I agree with the remark of @silene that eventually moving those lemmas about `Q` which are not specific to `R` into the directory `QArith` is worth.

Answers to previous remarks:
> Also, if you want to axiomatize induction schemes, I think you need to add this one `Axiom Rrepr_non_dep_spec`

Agreed.

> The full details are in RQ_limit in ConstructiveRcomplete.v, which is constructive and axiom-free.

OK. (And this reminds me an interesting [talk](https://folk.uio.no/larsk/kiel1.pdf) by Lars Kristiansen which I had the opportunity to attend showing that there are more computable reals in Cauchy representation than in any base n representation, which themselves are more than in Dedekind cut representation, with representations in base n ordered by inclusion of prime factors in n. In particular, the reals computable in base 2 are more than in base 10 and are incomparable with those computable in base 3.)

**Comment by VincentSe** [comment]
@herbelin The typo is now fixed. Meanwhile I have proved on my machine that `LPO + sig_not_dec` prove that `is_upper_bound` is a decidable property, and also that the `Prop`-existence of an upper bound implies its `Type`-existence. So `is_upper_bound`is the decidable upper Dedekind cut of the real number `completeness` is looking for.

In other words I am now sure that `LPO + sig_not_dec` prove `completeness` as a theorem. Classical real numbers only have logical axioms and the quotient axioms.

**Comment by VincentSe** [comment]
Hello, what is the next step ? All reviewers approved 4 days ago and the last correction (a typo) is done.

**Comment by vbgl** [comment]
Ping  @coq/reals-library-maintainers

**Comment by VincentSe** [comment]
Hello, it's been 6 days since all approvals and still no news. Who is in charge of finishing this ? @silene and @herbelin, isn't it one of you two ?

**Comment by herbelin** [comment]
Personally, I can assign if it is ok for @silene who in practice intervened more than me on the PR.

**Comment by VincentSe** [comment]
@silene @herbelin 10 days since the approvals... we cannot stay in the dark like this. Can you merge today, so that I can move on to the other pull requests ?

**Comment by vbgl** [comment]
There is a CI failure (in “quick” mode):

> COQC -schedule-vio2vo 2 theories/**.vio plugins/**.vio
File "./theories/Reals/ConstructiveCauchyReals.v", line 1162, characters 6-25:
Warning:
File ./theories/Reals/ConstructiveCauchyReals.vo: proof of BoundFromZero
Recursive definition of BoundFromZero is ill-formed.
In environment
BoundFromZero :
forall (qn : nat -> Q) (k : nat) (A : positive),
(forall n : nat, (k <= n)%nat -> (Qabs (qn n) < Z.pos A # 1)%Q) ->
{B : positive | forall n : nat, (Qabs (qn n) < Z.pos B # 1)%Q}
qn : nat -> Q
k : nat
A : positive
H : forall n : nat, (k <= n)%nat -> (Qabs (qn n) < Z.pos A # 1)%Q
k0 : nat
H0 : forall n : nat, (S k0 <= n)%nat -> (Qabs (qn n) < Z.pos A # 1)%Q
a : positive
maj : (Qabs (qn k0) < Z.pos a # 1)%Q
Recursive call to BoundFromZero has principal argument equal to 
"Pos.max A a" instead of a subterm of "A".
Recursive definition is:
"fun (qn : nat -> Q) (k : nat) (A : positive)
   (H : forall n : nat, (k <= n)%nat -> (Qabs (qn n) < Z.pos A # 1)%Q) =>
 match
   k as n
   return
     ((forall n0 : nat, (n <= n0)%nat -> (Qabs (qn n0) < Z.pos A # 1)%Q) ->
      {B : positive | forall n0 : nat, (Qabs (qn n0) < Z.pos B # 1)%Q})
 with
 | 0%nat =>
     fun H0 : forall n : nat, (0 <= n)%nat -> (Qabs (qn n) < Z.pos A # 1)%Q
     =>
     exist
       (fun B : positive => forall n : nat, (Qabs (qn n) < Z.pos B # 1)%Q) A
       (fun n : nat => H0 n (Nat.le_0_l n))
 | S k0 =>
     fun
       H0 : forall n : nat, (S k0 <= n)%nat -> (Qabs (qn n) < Z.pos A # 1)%Q
     =>
     let s := Qarchimedean (Qabs (qn k0)) in
     let (a, maj) := s in
     BoundFromZero qn k0 (Pos.max A a)
       (fun (n : nat) (H1 : (k0 <= n)%nat) =>
        let o : (n <= k0)%nat \/ (k0 < n)%nat := Nat.le_gt_cases n k0 in
        match o with
        | or_introl H2 =>
            let H3 : n = k0 := Nat.le_antisymm n k0 H2 H1 in
            eq_ind n
              (fun k1 : nat =>
               (forall n0 : nat,
                (S k1 <= n0)%nat -> (Qabs (qn n0) < Z.pos A # 1)%Q) ->
               (Qabs (qn k1) < Z.pos a # 1)%Q ->
               (k1 <= n)%nat ->
               (n <= k1)%nat -> (Qabs (qn n) < Z.pos (Pos.max A a) # 1)%Q)
              (fun
                 (_ : forall n0 : nat,
                      (S n <= n0)%nat -> (Qabs (qn n0) < Z.pos A # 1)%Q)
                 (maj0 : (Qabs (qn n) < Z.pos a # 1)%Q) 
                 (_ _ : (n <= n)%nat) =>
               Qlt_le_trans (Qabs (qn n)) (Z.pos a # 1)
                 (Z.pos (Pos.max A a) # 1) maj0
                 (eq_ind_r
                    (fun p : positive =>
                     (Z.pos p <= Z.pos (Pos.max A a * 1))%Z)
                    (eq_ind_r (fun p : positive => (Z.pos a <= Z.pos p)%Z)
                       (Pos.le_max_r A a) (Pos.mul_1_r (Pos.max A a)))
                    (Pos.mul_1_r a))) k0 H3 H0 maj H1 H2
        | or_intror H2 =>
            Qlt_le_trans (Qabs (qn n)) (Z.pos A # 1)
              (Z.pos (Pos.max A a) # 1) (H0 n H2)
              (eq_ind_r
                 (fun p : positive => (Z.pos p <= Z.pos (Pos.max A a * 1))%Z)
                 (eq_ind_r (fun p : positive => (Z.pos A <= Z.pos p)%Z)
                    (Pos.le_max_l A a) (Pos.mul_1_r (Pos.max A a)))
                 (Pos.mul_1_r A))
        end)
 end H".

**Comment by VincentSe** [comment]
@vbgl This file compiles with the standard `make` and `coqc`. How do we execute it under this "quick" mode ?

**Comment by vbgl** [comment]
IIRC using “make QUICK=1”

**Comment by JasonGross** [comment]
The bug in this case is just that `Fixpoint BoundFromZero` has no `struct` annotation and `Qed`'d `Fixpoint`s without `struct` annotations are not well-supported in quick mode.

**Comment by VincentSe** [comment]
@vbgl @JasonGross Thanks for looking into it. I'll only have my compiler tonight around 7pm to push this fix. Otherwise do you mind fixing it yourselves and merging now ?

**Comment by vbgl** [comment]
Sure. I’ll do it.

**Comment by VincentSe** [comment]
@vbgl Thanks, the CI passes now.

**Comment by VincentSe** [comment]
@silene @spitters @vbgl @herbelin @JasonGross @Zimmi48 @ppedrot Thanks a lot for your support. In the coming days I'll submit the pull request that moves the rational lemmas into the rational part of the stdlib, and also proves completeness as a theorem from logical axiom `sig_not_dec`. 

I'll also open issues to discuss whether we can avoid the quotient axioms for the classical reals. I already know it's possible if we assume `funext` and embed into the Dedekind reals, but depending on the intended semantics of Coq, `funext` might be refused. Are there other ways to do quotients ? HoTT has them, but HoTT also has `funext`...

Finally I'll open an issue to discuss the integration of the new constructive reals with C-CoRN and math-classes. @herbelin had a question about the floor function, we can also discuss it there.
